US07842696B2
DIPEA (0.084 mL, 0.49 mmol) was added drop wise to 4-benzenesulfonyl-benzoic acid (51 mg, 0.20 mmol) in DMF (5 mL). EDCI (78 mg, 0.41 mmol) and HOBT (26 mg, 0.20 mmol) were added consecutively and, after 10 mins, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone in its TFA salt form (70 mg, 0.16 mmol) was added. The resulting mixture was stirred at room temperature overnight. Water was then added and the resulting solid was filtered to afford 60 mg (65% yield) of 4-benzenesulfonyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LC-MS purity: 95.5%. 1H NMR (DMSO-D6): δ 8.8 (t, 1H), 8.1 (m, 5H), 7.8 (m, 6H), 7.6 (m, 1H), 4.2 (d, 2H), 3.6 (m, 6H), 3.2 (m, 2H).

reactant | DIPEA | 0.49 mmol, 0.084 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-benzenesulfonyl-benzoic acid | 0.20 mmol, 51 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C13H10O4S
reactant | EDCI | 0.41 mmol, 78 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.20 mmol, 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-benzenesulfonyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 60 mg, 65% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C27H24F3N3O5S
